US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(2-methylbenzoyl)thiourea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. Commercially available 2-methyl-1-benzenecarbonyl isothiocyanate (50 μl) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (72 mg, yield 90%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 2-methyl-1-benzenecarbonyl isothiocyanate | 50 μl | CC1=C(C=CC=C1)C(=O)N=C=S | C9H7NOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(2-methylbenzoyl)thiourea | 72 mg, yield 90% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(C1=C(C=CC=C1)C)=O | C25H22N4O4S
